** sch_path: /foss/designs/heichip/isource_beta/testbenches/xschem/tb_isource_beta_op.sch
**.subckt tb_isource_beta_op
V2 vdd GND {{vdd}}
V3 vdd net1 0
.save i(v3)
x1 net1 out GND isource_beta
R1 out GND 50k
**** begin user architecture code


.temp {{ temp }}
.param mc_ok = {{ sigma }}
.option SEED = {{ seed }}
.option method=gear

.control
set num_threads=1

save all
op
let idd = i(V3)
echo MY_DATA:$&idd $&out
quit
.endc





.lib cornerMOShv.lib mos_{{ corner_mos }}
.lib cornerRES.lib res_{{ corner_res }}


**** end user architecture code
**.ends

* expanding   symbol:  heichip/isource_beta/schematic/xschem/isource_beta.sym # of pins=3
** sym_path: /foss/designs/heichip/isource_beta/schematic/xschem/isource_beta.sym
** sch_path: /foss/designs/heichip/isource_beta/schematic/xschem/isource_beta.sch
.subckt isource_beta vdd out vss
*.opin out
*.iopin vdd
*.iopin vss
*  M1 -  sg13_hv_pmos  IS MISSING !!!!
*  M2 -  sg13_hv_pmos  IS MISSING !!!!
*  M3 -  sg13_hv_nmos  IS MISSING !!!!
*  M4 -  sg13_hv_nmos  IS MISSING !!!!
*  R1 -  rppd  IS MISSING !!!!
*  M5 -  sg13_hv_pmos  IS MISSING !!!!
*  MS1 -  sg13_hv_pmos  IS MISSING !!!!
*  MS2 -  sg13_hv_nmos  IS MISSING !!!!
*  MS3 -  sg13_hv_nmos  IS MISSING !!!!
.ends

.GLOBAL GND
.end
